US08426408B2
4-Nitro-1H-pyrazole (200 mg, 1.77 mmol), 1-methylpiperidin-4-ol (204 mg, 1.77 mmol) and triphenylphosphine (557 mg, 2.12 mmol) were combined in THF (6 mL) and di-tert-butyl azodicarboxylate (529 mg, 2.30 mmol) was added over about 1 minute. The resulting mixture was stirred at room temperature for 4 hours, and concentrated to dryness. The residue was purified by flash chromatography (Analogix, 12 g column, 0 to 7% methanol in CH2Cl2 over 25 minutes) to give 1-methyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine.

reactant | 4-Nitro-1H-pyrazole | 1.77 mmol, 200 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1-methylpiperidin-4-ol | 1.77 mmol, 204 mg | CN1CCC(CC1)O | C6H13NO
reactant | triphenylphosphine | 2.12 mmol, 557 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 2.30 mmol, 529 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-methyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine | CN1CCC(CC1)N1N=CC(=C1)[N+](=O)[O-] | C9H14N4O2
